US09145441B2
Compound 106a. (S)-2-Dibenzylamino-3-hydroxy-propionic acid benzyl ester
A solution of L-serine (2.1 g, 20 mmol) in acetonitrile/water (52 mL, 25:1) was added to solid potassium carbonate (13.8 g, 100 mmol) and the mixture was treated with benzyl bromide (8.92 mL, 75 mmol). After stirring for 20 h at 55° C. the mixture was cooled to room temperature, filtered, diluted with ethyl acetate and the organics were washed with water, dried over anhydrous sodium sulfate, filtered and the volatiles were removed in vacuo. The residue was purified by silica gel chromatography eluting with a stepwise gradient of iso-hexanes/ethyl acetate 1:0 to 4:1 to afford the title compound (3.9 g, 52%) as a pale yellow oil. 1H NMR (300 MHz, CDCl3) δ 2.52 (dd, J=7.3, 4.5 Hz, 1H), 3.61 (d, J=7.6 Hz, 1H), 3.67 (d, J=13.6 Hz, 2H), 3.75-3.85 (m, 2H), 3.92 (d, J=13.6 Hz, 2H), 5.23, 5.32 (ABq, JAB=12.0 Hz, 2H), 7.22-7.37 (m, 10H), 7.38-7.48 (m, 5H). LCMS (m/z) 376.2 [M+H], Tr=3.25 min.

reactant | L-serine | 20 mmol, 2.1 g | N[C@@H](CO)C(=O)O | C3H7NO3
reactant | potassium carbonate | 100 mmol, 13.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | benzyl bromide | 75 mmol, 8.92 mL | C(C1=CC=CC=C1)Br | C7H7Br
solvent | acetonitrile water | 52 mL | C(C)#N.O
product | (S)-2-Dibenzylamino-3-hydroxy-propionic acid benzyl ester | 3.9 g, 52% | C(C1=CC=CC=C1)OC([C@H](CO)N(CC1=CC=CC=C1)CC1=CC=CC=C1)=O | C24H25NO3
